US07598257B2
Step 2: cis-4-[4-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl thiocyanate).
cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl thiocyanate was dissolved in methanol (2.0 mL, 0.049 mol) and DCM (2.0 mL, 0.031 mol), and TFA (0.5 mL, 0.006 mol) was added. The resulting mixture was stirred at 25° C. for 16 hours. TLC analysis showed no starting material present and LCMS analysis showed product. The reaction was concentrated using a rotary evaporator and the concentrate was chromatographed on silica gel using 2% MeOH/EtOAc to give the product. LC/MS (M+H)+: 339, 1H NMR(CD3OD) δ 8.65 (s, 1H), 8.55 (s, 1H), 8.31 (s, 1H), 7.50 (d, 1H), 6.96 (d, 1H), 4.43 (m, 1H), 3.20 (d, 2H, J=7.6 Hz), 2.24 (m, 2H), 1.80-2.17 (m, 7H).

reactant | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl thiocyanate | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H]2CC[C@H](CC2)CSC#N)(C)C | C23H32N6OSSi
reactant | methanol | 0.049 mol, 2.0 mL | CO | CH4O
reactant | DCM | 0.031 mol, 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 0.006 mol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | cis-4-[4-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl thiocyanate | N1=CN=C(C2=C1NC=C2)C=2C=NN(C2)[C@H]2CC[C@H](CC2)CSC#N | C17H18N6S
